US09260414B2
((S)-1-{(S)-2-[4-(4′-amino-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
To a solution of ((S)-1-{(S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (9.10 g, 20.34 mmol) in dioxane:water (3:1) (200 mL), was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (4.9 g, 22.37 mmol), sodium carbonate (4.3 g, 40.68 mmol) and Pd(dppf)2Cl2 (0.83 g, 5%). The reaction mixture was warmed to reflux under nitrogen, stirred for 4 h, cooled to RT, filtered, and concentrated. The residue was extracted with ethyl acetate and water, dried with sodium sulfate and concentrated. The crude product was purified by silica gel chromatography eluting with 1:1 hexane:ethyl acetate, to provide the title compound (7 g, 75% yield) as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ (ppm) 7.62-7.55 (m, 1H), 7.50 (d, J=8.0 Hz, 2H), 7.40 (m, 3H), 7.18 (s, 1H), 6.75 (d, J=8.4 Hz, 2H), 5.50 (d, J=9.2 Hz, 1H), 5.25-5.23 (m, 1H), 4.31 (t, J=2.4 Hz, 1H), 3.83-3.80 (m, 1H), 3.67 (s, 3H), 3.59-3.53 (m, 1H), 3.05-2.95 (m, 1H), 2.40-2.30 (m, 1H), 2.19-2.11 (m, 1H), 2.08-2.03 (m, 1H), 1.98-1.93 (m, 1H), 1.07-1.01 (m, 1H), 0.85 (d, J=6.8 Hz, 6H).

reactant | ((S)-1-{(S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 20.34 mmol, 9.10 g | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 22.37 mmol, 4.9 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium carbonate | 40.68 mmol, 4.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane water | 200 mL | O1CCOCC1.O
catalyst | Pd(dppf)2Cl2 | 0.83 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ((S)-1-{(S)-2-[4-(4′-amino-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 7 g, 75% yield | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C26H31N5O3
